US09120749B2
1-(5-aminopyridin-2-yl)pyrrolidin-3-ol
Following General procedure H, 2-chloro-5-nitropyridine (500 mg, 3.1 mmol) was reacted with pyrrolidin-3-ol (330 mg, 3.5 mmol) followed by reduction to afford the desired product (440 mg, 52%) as a purple solid: ESI MS m/z 180 [C9H13N3O+H]+.

reactant | 2-chloro-5-nitropyridine | 3.1 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | pyrrolidin-3-ol | 3.5 mmol, 330 mg | N1CC(CC1)O | C4H9NO
product | 1-(5-aminopyridin-2-yl)pyrrolidin-3-ol | 440 mg, 52% | NC=1C=CC(=NC1)N1CC(CC1)O | C9H13N3O
